US07053089B2
4-[(5-Cyano-3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester
The above compound was prepared in a similar manner as described in EXAMPLE 130 from 4-[(5-cyano-3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine using N-(benzyloxycarbonyloxy)succinimide (Sigma-Aldrich). M.S.(M+1): 382.

reactant | 4-[(5-cyano-3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine | C(#N)C=1N=C(C(=NC1)NCC1CCNCC1)OC | C12H17N5O
reactant | N-(benzyloxycarbonyloxy)succinimide | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
product | 4-[(5-Cyano-3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=C(N=C1OC)C#N | C20H23N5O3
